datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:8])[H:9])[H:7])([H:5])[H:6].[C:15]([O:16][O:17])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])[H:11])([H:8])[H:9])[H:7])([H:5])[H:6].[H:10][O:17][O:16][C:15]([H:18])([H:19])[H:20],58.19944
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])[H:8])[H:7].[C:13](#[C:14][C:15]([C:16]([H:19])([H:20])[H:21])[H:18])[H:17]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])([H:8])[C:15]([C:14]#[C:13][H:17])([C:16]([H:19])([H:20])[H:21])[H:18])[H:7],26.7776
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])[H:8])[H:7].[C:15](#[C:16][C:17]([H:19])[H:20])[H:18]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])([H:8])[C:17]([C:16]#[C:15][H:18])([H:19])[H:20])[H:7],27.991
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[c:7]1[c:8]([H:13])[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]1[H:17]>>[C:0]([C:1](=[C:2]([H:5])[H:6])[c:7]1[c:8]([H:13])[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]1[H:17])([H:3])[H:4],6.4852
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[O:23][O:24]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:7])([H:8])[H:9].[H:10][O:23][O:24],199.11656
[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7].[C:14]([H:15])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[C:14]([H:15])([H:16])[H:17])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7],5.0208
[C:0](#[C:1][C:2](=[S:3])[H:5])[H:4].[C:6]([H:7])([H:8])[H:9]>>[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][C:6]([H:7])([H:8])[H:9],147.193
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[C:11]([C:12]([S:13][H:23])[c:14]1[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]1[H:28])([H:20])([H:21])[H:22]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:3])([H:4])[H:5].[H:6][C:12]([C:11]([H:20])([H:21])[H:22])([S:13][H:23])[c:14]1[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]1[H:28],63.5968
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[O:15]>>[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:8])[H:9].[H:7][O:15],47.0729288
[O:0]=[S:1][O:2][H:3].[S:4]>>[H:3][S:4].[O:0]=[S:1]=[O:2],0.0
[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])[H:6])[H:5].[S:8]=[C:9]([S:10][H:12])[H:11]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])([H:6])[H:11])[H:5].[S:8]=[C:9][S:10][H:12],63.5131
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([C:5]([C:6](=[C:7]([H:18])[H:19])[H:17])=[C:8]([C:9](=[C:10]([H:22])[H:23])[H:21])[H:20])([H:15])[H:16])[H:11]>>[C:0](#[C:1][C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([H:15])([H:16])[C:5]([C:6](=[C:7]([H:18])[H:19])[H:17])[C:8]1([C:9](=[C:10]([H:22])[H:23])[H:21])[H:20])[H:11],145.645
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6]([C:7]([C:8]([C:9]([O:10][O:11])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][O:11][O:10][C:9]([C:8]([C:7]([C:6]([H:12])([H:13])[H:14])([H:15])[H:16])([H:17])[H:18])([H:19])[H:20],127.31912
[C:0]1([H:5])=[C:1]([H:6])[C:2]([H:7])([H:8])[C:3]([H:9])=[C:4]1[H:10].[O:11][O:12]>>[C:0]1([H:5])=[C:1]([H:6])[C:2]([H:8])[C:3]([H:9])=[C:4]1[H:10].[H:7][O:11][O:12],104.762
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[C:4]([H:8])([H:9])[H:10])[H:5].[C:11](=[C:12]([C:13]([C:14]([H:19])([H:20])[H:21])[C:15]([H:22])([H:23])[H:24])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[C:13]([C:12](=[C:11]([H:16])[H:17])[H:18])([C:14]([H:19])([H:20])[H:21])[C:15]([H:22])([H:23])[H:24])[C:4]([H:8])([H:9])[H:10])[H:5],30.7942
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[H:9].[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])([C:7](=[C:8]([H:17])[H:18])[H:16])[H:19])[H:9],9.70688
[C:0](=[C:1]([c:2]1[c:3]([H:16])[c:4]2[c:5]3[c:6]([c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]3[c:11]1[H:20])[C:12]([H:21])=[C:13]2[H:22])[H:15])[H:14].[H:23]>>[C:0](#[C:1][c:2]1[c:3]([H:16])[c:4]2[c:5]3[c:6]([c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]3[c:11]1[H:20])[C:12]([H:21])=[C:13]2[H:22])[H:14].[H:15][H:23],44.480104
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[C:14]([C:15]([O:16][O:17])([H:21])[H:22])([H:18])([H:19])[H:20]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6].[H:7][O:17][O:16][C:15]([C:14]([H:18])([H:19])[H:20])([H:21])[H:22],66.944
